US04053605
To S -2-phenyl-3-tert. butyl-5-hydroxymethyloxazolidine (7 grams, 0.03 moles) in 35 ml. of N,N-dimethylformamide (DMF) is added 1.3 grams (0.03 moles of sodium hydride (57% dispersion in mineral oil). This mixture is heated 5 minutes over steam and then is allowed to stir 15 minutes at room temperature. 4.1 grams (0.03 moles) of 2-chloro-3-cyanopyridine in 20 ml of DMF is then added and the resultant reaction mixture is stirred four hours at room temperature. Water is then added and an oil separates. This oil is extracted three times with 25 ml of chloroform each time. This chloroform exrract is dried over sodium sulfate and concentrated under reduced pressure (20 mm) over steam to yield the product, S -2-phenyl-3-tert. butyl-5-(3-cyano-2-pyridyloxymethyl)oxazolidine, as an oil. This oil is then suspended in 1N HCl (50 ml), heated 5 minutes over steam and then is stirred for 15 minutes at room temperature. The solution obtained is then extracted twice with 25 ml of diethylether each time. The extracted aqueous layer is made basic by addition of saturated aqueous sodium carbonate solution. This aqueous solution is then extracted with ethyl acetate (3 × 25 ml) and the ethylacetate solution is dried over sodium sulfate. The dried ethyl acetate solution is then concentrated under reduced pressure (20 mm) over steam to yield an oil. This oil is chromatographed on alumina. The chromatographic fractions are concentrated to yield an oil which is dissolved in diethyl ether. Ethanolic HCl (saturated solution) is added to this ether solution until solid separation is substantially complete. The separated semi-solid is recrystallized from isopropanol/ether (ether added to isopropanol to the point of turbidity) to yield 1 gram of S -2-(3-tert. butylamino-2-hydroxypropoxy)-3-cyanopyridine hydrochloride, melting at 161°-163° C.

reactant | 2-phenyl-3-tert. butyl-5-hydroxymethyloxazolidine | 0.03 moles, 7 grams | C1(=CC=CC=C1)C1OC(CN1C(C)(C)C)CO | C14H21NO2
reactant | sodium hydride | 0.03 moles | [H-].[Na+]
reactant | 2-chloro-3-cyanopyridine | 0.03 moles, 4.1 grams | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | Water | O | H2O
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
product | 2-phenyl-3-tert. butyl-5-(3-cyano-2-pyridyloxymethyl)oxazolidine | C1(=CC=CC=C1)C1OC(CN1C(C)(C)C)COC1=NC=CC=C1C#N | C20H23N3O2
